US06528525B1
2-Methyl-2-phenoxy-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 33-3 compound)
In a similar manner to that described in Example 2, ethyl 2-methyl-2-phenoxy-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (930 mg), which is the product of Example 15, was reacted with aqueous sodium hydroxide solution (1N, 3.60 ml) at 70° C. and the reaction mixture was treated to give the title compound (545 mg) as a white powder.

reactant | ethyl 2-methyl-2-phenoxy-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 930 mg | CC(C(=O)OCC)(CC1=CC=C(C=C1)OCCNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O)OC1=CC=CC=C1 | C32H32N2O5
reactant | sodium hydroxide | 1N, 3.60 ml | [OH-].[Na+]
product | 2-Methyl-2-phenoxy-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 545 mg | CC(C(=O)O)(CC1=CC=C(C=C1)OCCNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O)OC1=CC=CC=C1 | C30H28N2O5
